US08084644B2
N-phenoxy-3-(phenylthio)acrylamide (0.50 g) was suspended to toluene (5 ml), then phosphorus pentachloride (0.42 g) was added thereto under ice-cooling and stirred at same temperature for 2.5 hours. The reaction mixture was concentrated under reduced pressure. The residue was dissolved to ethanol (15 ml). Sodium salt of thiophenol (0.73 g) was added to the solution under ice-cooling and heat refluxing for 2.5 hours. t-Butyl methyl ether (100 ml) was added to the reaction mixture, washed successively with 1N aqueous sodium hydroxide solution, water and aqueous saturated sodium chloride solution, dried over anhydrous sodium sulfate, filtered off inorganic salt and concentrated under reduced pressure. The residue was purified by medium pressure preparative high performance liquid chromatography (hexane:ethyl acetate=30:1) to obtain phenyl N-(phenoxy)-3-(phenylthio)thioacrylimidate (0.14 g) as yellow oil.

reactant | N-phenoxy-3-(phenylthio)acrylamide | 0.50 g | O(C1=CC=CC=C1)NC(C=CSC1=CC=CC=C1)=O | C15H13NO2S
reactant | phosphorus pentachloride | 0.42 g | P(Cl)(Cl)(Cl)(Cl)Cl | Cl5P
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | phenyl N-(phenoxy)-3-(phenylthio)thioacrylimidate | 0.14 g | O(C1=CC=CC=C1)N=C(C=CSC1=CC=CC=C1)SC1=CC=CC=C1 | C21H17NOS2
